US07465731B2
A mixture of methyl 6-chloronicotinate (8.0 g), (3R)-(−)-1-benzyl-3-aminopyrrolidine (9.86 g), CuO (371 mg) and K2CO3 (8.38 g) in DMF (60 ml) was stirred at 100° C. for 10 hours under atmospheric pressure of nitrogen. The reaction mixture was poured into a mixture of AcOEt and water and the organic layer was washed with brine and dried over MgSO4. The solvent was evaporated in vacuo and the residue was chromatographed on silicagel eluting with AcOEt-MeOH (97:3). The eluted fractions containing the desired product were collected and evaporated in vacuo to give methyl 6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}nicotinate (9.9 g).

reactant | methyl 6-chloronicotinate | 8.0 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | (3R)-(−)-1-benzyl-3-aminopyrrolidine | 9.86 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)N | C11H16N2
reactant | K2CO3 | 8.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}nicotinate | 9.9 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=NC=C(C(=O)OC)C=C1 | C18H21N3O2
